US06313312B1
Ethyl 3-(chloromethyl)-2-methyl-2-(3-nitrophenyl)cyclopropane-carboxylate
To a solution of 1-[(E)-3-chloro-1-methyl-1-propenyl]-3-nitrobenzene (Preparation 3, 36 g, 0.17 mol) in dichloromethane (50 ml) was added rhodium (II) acetate dimer (1 g, 2.3 mmol). To the mixture was added dropwise at room temperature over 8 h a solution of ethyl diazoacetate (50 ml, 54.25 g, 0.475 mol) in dichloromethane (50 ml), then the mixture was stirred at room temperature for 16 h. To the mixture was added dropwise at room temperature over 7 h a further solution of ethyl diazoacetate (50 ml, 54.25 g, 0.475 mol) in dichloromethane (50 ml), then the mixture was stirred at room temperature for a further 16 h. The mixture was concentrated in vacuo and the residue purified by silica column (1 kg) chromatography, eluting with 1:1 hexane/dichloromethane then dichloromethane. Product-containing fractions were combined and concentrated in vacuo, then concentrated under a stream of nitrogen for 16 h. The residue was purified further by silica column (2 kg) chromatography, eluting with 1:1 hexane/dichloromethane then dichloromethane. Product containing fractions were combined and concentrated in vacuo, to give the title compound as a very pale yellow oil (14.2 g, 29%).

reactant | 1-[(E)-3-chloro-1-methyl-1-propenyl]-3-nitrobenzene | 0.17 mol, 36 g | ClC/C=C(\C)/C1=CC(=CC=C1)[N+](=O)[O-] | C10H10ClNO2
reactant | ethyl diazoacetate | 0.475 mol, 50 ml, 54.25 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | ethyl diazoacetate | 0.475 mol, 50 ml, 54.25 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | rhodium (II) acetate dimer | 2.3 mmol, 1 g | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
product | Ethyl 3-(chloromethyl)-2-methyl-2-(3-nitrophenyl)cyclopropane-carboxylate | ClCC1C(C1C(=O)OCC)(C1=CC(=CC=C1)[N+](=O)[O-])C | C14H16ClNO4
